US06555699B2
Preparation of 1α-(tert-Butyldimethylsilyloxy)-3β-hydroxy-20(S)-(5-hydroxy-5-methyihexylthio)pregna-5,7,16-triene
Under the same conditions as in Example 3, 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-phenoxycarbonylthiopregna-5,7,16-triene (82.6 mg, 0.142 mmol), 6-bromo-2-methyl-2-hexanol (139 mg, 0.710 mmol), tetrahydrofuran (1 ml) and 1M KOH solution in methanol (1 ml) were reacted and worked up, and then the residue was purified by preparative thin layer chromatography (0.5 mm×2, dichloromethane:ethyl acetate=8:1, developed once) to give 87.2 mg of a product, which was directly used in the subsequent reaction because it was difficult to separate from 6-bromo-2-methyl-2-hexanol.

reactant | 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-phenoxycarbonylthiopregna-5,7,16-triene | 0.142 mmol, 82.6 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SC(=O)OC5=CC=CC=C5)[C@]4(CC[C@@H]3[C@@]12C)C)O | C34H48O4SSi
reactant | 6-bromo-2-methyl-2-hexanol | 0.710 mmol, 139 mg | BrCCCCC(C)(O)C | C7H15BrO
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | KOH | 1M | [OH-].[K+]
solvent | methanol | 1 ml | CO | CH4O
product | 1α-(tert-Butyldimethylsilyloxy)-3β-hydroxy-20(S)-(5-hydroxy-5-methyihexylthio)pregna-5,7,16-triene | 87.2 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SCCCCC(C)(C)O)[C@]4(CC[C@@H]3[C@@]12C)C)O | C34H58O3SSi
